US06982348B2
To a solution of 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (239 mg, 1.27 mmol) in N,N-dimethylformamide (5 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (243 mg, 1.27 mmol) and 1-hydroxybenzotriazole monohydrate (195 mg, 1.27 mmol), and (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-(3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-1-propanol (0.40 g, 1.21 mmol) was finally added. The mixture was stirred overnight at room temperature. The mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and filtered using a glass filter filled with silica gel. The filtrate was washed with ethyl acetate and concentrated under reduced pressure. The residue was purified by recrystallization (hexane-ethyl acetate) to give N-{(1RS,2SR)-2-(3-chlorophenyl)-1-[(3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)methyl]-2-hydroxyethyl}-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide (326 mg, 54%) as colorless crystals.

reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 1.27 mmol, 239 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.27 mmol, 243 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 1.27 mmol, 195 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-(3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-1-propanol | 1.21 mmol, 0.40 g | NC(C(O)C1=CC(=CC=C1)Cl)CC=1C=CC2=C(C(CO2)(C)C)C1 | C19H22ClNO2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{(1RS,2SR)-2-(3-chlorophenyl)-1-[(3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)methyl]-2-hydroxyethyl}-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide | 326 mg, 54% | ClC=1C=C(C=CC1)C(C(CC=1C=CC2=C(C(CO2)(C)C)C1)NC(=O)C=1C=CC=C2C1C=CCCC2)O | C31H32ClNO3
